US04891363
5-(2-Methoxyethoxy)methoxy-1-pentanol
A solution of 50.00 g of 1,5-pentanediol dissolved in 100 ml of dimethylformamide was added dropwise to a mixture of 23.00 g of sodium hydride (as a 55% w/w dispersion in mineral oil) in 300 ml of dimethylformamide, whilst ice-cooling at 5° to 7° C. The mixture was stirred at room temperature for 1 hour, after which 65.79 g of 2-methoxyethoxymethyl chloride dissolved in 100 ml of dimethylformamide were added dropwise, whilst ice-cooling at 5° to 7° C. The mixture was stirred at room temperature for 3 hours, after which it was poured into 2.5 liters of water and then extracted five times with methylene chloride. The combined extracts were washed with water, dried over anhydrous magnesium sulfate and concentrated by evaporation under reduced pressure. The residue was subjected to column chromatography through 850 g of silica gel, and 48.40 g of the title compound were obtained, as a colorless oil, from those fractions eluted with mixtures of methylene chloride and methanol ranging from 98:2 to 95:5 by volume.

reactant | 1,5-pentanediol | 50.00 g | C(CCCCO)O | C5H12O2
reactant | sodium hydride | 23.00 g | [H-].[Na+]
reactant | 2-methoxyethoxymethyl chloride | 65.79 g | COCCOCCl | C4H9ClO2
reactant | water | 2.5 liters | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 5-(2-Methoxyethoxy)methoxy-1-pentanol | 48.40 g | COCCOCOCCCCCO | C9H20O4
